US06602884B2
A mixture of 6.5 g of methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate dihydrochloride, 3.9 g of 2-(2-bromoethylthio)-1,4-difluorobenzene dissolved in 10-cm3 of dimethylformamide, 2.32 g of potassium iodide, 5.8 g of potassium carbonate and 3.93-cm3 of trietylamine in 200-cm3 of acetonitrile was heated with stirring and under an inert atmosphere, for 22 hours at a temperature in the region of 70° C. After cooling to a temperature in the region of 20° C., the reaction mixture was filtered and the insoluble matter was washed twice with 30-cm3 of acetonitrile. The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue was taken up in 100-cm3 of distilled water and 150-cm3 of ethyl acetate. The organic phase was washed 3 times with 100-cm3 of distilled water and twice with 100-cm3 of a saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated to dryness according to the conditions described above. The oil obtained was purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a cyclohexane-ethyl acetate (50/50 by volume) mixture and collecting 60-cm3 fractions. The fractions containing the expected product were combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1.7 g of methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate were obtained in the form of an orange-colored pourer viscous oil.

reactant | methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate dihydrochloride | 6.5 g | Cl.Cl.OC(CCC1C(CNCC1)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F
reactant | 2-(2-bromoethylthio)-1,4-difluorobenzene | 3.9 g | BrCCSC1=C(C=CC(=C1)F)F | C8H7BrF2S
reactant | potassium iodide | 2.32 g | [I-].[K+]
reactant | potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10-cm3 | CN(C=O)C | C3H7NO
solvent | acetonitrile | 200-cm3 | C(C)#N | C2H3N
solvent | trietylamine | 3.93-cm3 | C(C)N(CC)CC | C6H15N
product | methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 1.7 g | OC(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H33F3N2O4S
